US07528253B2
Ethyl 3-(N-Benzyl-N-tert-butoxycarbonylamino)propionate
Ethyl 3-benzylaminopropionate (10 g, 48.2 mmol) was dissolved in dichloromethane (100 mL) and to this solution was added triethylamine (6.72 mL, 53 mmol). This mixture was flushed with dry nitrogen and di-tert-butyl dicarbonate (11 g, 51 mmol) was added. The resulting mixture was stirred at room temperature for 3 hours. The reaction was then concentrated under reduced pressure and the residue was dissolved in ethyl acetate. This solution was washed with aqueous hydrochloric acid (1N,×2), aqueous sodium hydroxide (1N,×2) and brine (×1). The organic layer was then dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford the title compound as a clear colorless oil (15.6 g). 1H NMR (CDCl3, δ) 7.4-7.2 (m, SH), 4.45 (br s, 2H), 4.1 (q, 2H), 3.5 (m, 2H), 2.55 (m, 2H), 1.5 (m, 9H), 1.25 (t, 3H).

reactant | Ethyl 3-benzylaminopropionate | 48.2 mmol, 10 g | C(C1=CC=CC=C1)NCCC(=O)OCC | C12H17NO2
reactant | triethylamine | 53 mmol, 6.72 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 51 mmol, 11 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Ethyl 3-(N-Benzyl-N-tert-butoxycarbonylamino)propionate | 15.6 g | C(C1=CC=CC=C1)N(C(=O)OC(C)(C)C)CCC(=O)OCC | C17H25NO4
